*BZG03C82 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*82V 3W Si Zener pkg:DO214 1,2
.SUBCKT BZG03C82 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  81.24
.MODEL DF D (IS=15.1N RS=14M N=1.7 CJO=49.8P VJ=1 M=0.33 TT=50.1N)
.MODEL DR D (IS=2.77M RS=16.7 N=15)
.ENDS